US08242125B2
51-A. (±)-4-[1-(5-tert-Butyl-2H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
A solution of 4-(1H-indol-5-yloxy)-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester (210 mg, 0.55 mmol), CDI (179 mg, 1.10 mmol), TEA (230 uL, 1.65 mmol), and DMF (5 mL) is stirred at rt 1 h before 5-tert-butyl-2H-pyrazol-3-ylamine (77 mg, 0.55 mmol) and 4-pyrrolidinopyridine (16.4 mg, 0.11 mmol) are added. After 24 h, the reaction is concentrated in vacuo and the purified via FCC (5-90% EtOAc/heptane) to give the title compound. MS (ESI) m/z 546.3 (M+1).

reactant | 4-(1H-indol-5-yloxy)-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 0.55 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1C)OC=1C=C2C=CNC2=CC1 | C21H24N4O3
reactant | CDI | 1.10 mmol, 179 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-tert-butyl-2H-pyrazol-3-ylamine | 0.55 mmol, 77 mg | C(C)(C)(C)C=1C=C(NN1)N | C7H13N3
reactant | 4-pyrrolidinopyridine | 0.11 mmol, 16.4 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (±)-4-[1-(5-tert-Butyl-2H-pyrazol-3-ylcarbamoyl)-1H-indol-5-yloxy]-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1C)OC=1C=C2C=CN(C2=CC1)C(NC=1NN=C(C1)C(C)(C)C)=O | C29H35N7O4
